US07105547B2
Step 3. Preparation of 2,2-Difluoro-N-{3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-thioacetamide.
Difluoro-thioacetic acid-O-(3,3-diphenyl-propyl)ester (84 mg, 0.25 mmol) is added to a solution of 1-[4-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluoro-phenyl]-2,3-dihydro-1H-pyridin-4-one in MeCN (1.2 mL) and DMF (0.2 mL). This solution is stirred for 36 h at which time the reaction is concentrated under reduced pressure and the title compound is purified by silica gel column chromatography (eluent: 1% MeOH in EtOAc). Yield 45 mg (41%). MS (m/z) 400 [M+1]+. 1H NMR (300 MHz, DMSO-d6) δ 11.32 (s, 1H), 7.83–7.51 (m, 4H), 6.69 (t, J=55.2 Hz, 1H), 5.25–5.17 (m, 2H), 4.39 (t, J=9.1 Hz,1H), 4.22–4.03 (m, 6H), 3.55–3.49 (m, 2H).

reactant | Difluoro-thioacetic acid-O-(3,3-diphenyl-propyl)ester | 0.25 mmol, 84 mg | C1(=CC=CC=C1)C(CCOC(C(F)F)=S)C1=CC=CC=C1 | C17H16F2OS
reactant | 1-[4-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluoro-phenyl]-2,3-dihydro-1H-pyridin-4-one | NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F | C15H16FN3O3
solvent | MeCN | 1.2 mL | CC#N | C2H3N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 2,2-Difluoro-N-{3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-thioacetamide | FC(C(=S)NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F)F | C17H16F3N3O3S
